US06930109B2
(6S)-(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol
A solution of (6S)-2-hydroxy-6-hydroxymethyl-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester (0.33 mg, 1.0 mmole) in o-dichlorobenzene (15 mL) was stirred at 180° C. for 4 hours. The solvent was removed in vacuum. The residue was purified by column chromatography on silica gel (50% methylene chloride/hexane) to afford 0.15 g (71%) of the title compound as a solid, mp 128° C., [α]25D=+74.19° (c=7.7, DMSO).

reactant | (6S)-2-hydroxy-6-hydroxymethyl-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester | 1.0 mmole, 0.33 mg | C(C)(C)(C)OC(=O)N1C(CCC2=C3O[C@@H](CCC3=CC=C12)CO)O | C18H25NO5
solvent | o-dichlorobenzene | 15 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (6S)-(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 0.15 g, 71% | N1=CC=CC2=C3O[C@@H](CCC3=CC=C12)CO | C13H13NO2
